Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Aphasia and headache.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ man with history of migraines as a 
child presents with headache and altered speech.  He was feeling 
well last night around ___, when he engaged in sexual 
activity with his wife and then went to sleep.  Upon awakening 
at 4am this morning, he had a headache in the left posterior 
aspect of his head.  He was talking to his ___ year old son 
without difficulty (trying to get him to go back to sleep).  He 
went back to sleep, and awoke around 6:15am.  When he got out of 
the shower, his wife felt that his speech was slurred and he was 
"not listening" to what she was saying.  The patient felt like 
he was responding more slowly than usual.  He was able to drive 
45 minutes to school, though he felt "spacy" during the drive.  
He finished one class and was emailing his wife to let her know 
he was ok, but when he reviewed his email his writing seemed 
occasionally wrong; for example, he had written "There's know 
blurriness" instead of "There's no blurriness."  This was what 
prompted him to come to the ED.
 
Past Medical History:
- Migraines as a child; took medication until age ___.
- S/p ACL repair ___ years ago
 
Social History:
___
Family History:
Family history of cancer.
 
Physical Exam:
97.6 89 154/101 18 100%  
Gen: Lying in bed, NAD
HEENT: Normocephalic, atraumatic.  Mucous membranes moist.   
Neck: Supple
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
Abd: +BS soft, nontender 
Skin: No rash
Ext: No edema
 
Neurologic examination: 
Mental status: 
General:  Alert, awake, normal affect.
Orientation:  Oriented to person, place, date. (Initially says
hospital is "___ then corrects himself).
Attention: Able to to say days of the week and months of the 
year
backwards
Executive Function: Follows simple axial and appendicular
commands.  Follows complex commands.
Memory: Registration ___.  Recall ___ at 5 minutes.
Speech/Language: Fluent w/o paraphasic (phonemic or semantic)
error.  Naming intact for high and low frequency objects. 
Repetition intact.  Comprehension intact.  Able to read and
write. 
Praxis: Able to demonstrate how to brush teeth. 
Calculations: 9 quarters = $2.25
 
Cranial Nerves:  
II: Fundoscopic examination reveals sharp disc margins. Pupils
equally round and reactive to light, 4 to 2 mm bilaterally.
Visual fields are full to confrontation. 
III, IV, VI: Extraocular movements intact without nystagmus. 
V1-3: Sensation intact V1-V3. 
VII: Facial movement symmetric. 
VIII: Hearing intact to finger rub bilaterally. 
IX & X: Palate elevation symmetric. Uvula is midline. 
XI: Sternocleidomastoid and trapezius full strength bilaterally. 

XII: Good bulk. No fasciculations. Tongue midline, movements
intact.
 
Motor: 
Normal bulk bilaterally. Tone normal. No observed myoclonus or
tremor.  No pronator drift
        Delt; C5   Bic:C6   Tri:C7 Wr ext:C6 Fing ext:C7
Left          5         5       5          5          5
Right         5         5       5          5          5
 
        IP: Quad:  Hamst: Dorsiflex:    ___:   Pl.flex
Left    5      5      5           5      5        5
Right   5      5      5           5      5        5
 
Deep tendon Reflexes:
          Biceps: Tric: Brachial:   Patellar:  Achilles   Toes:
Right       2       2         2        3           3     
DOWNGOING
Left        2       2         2        3           3     
DOWNGOING
 
Sensation: Patient reports pinprick feels sharper in upper arms
than lower arms bilaterally.  Otherwise intact to light touch,
pinprick, vibration and proprioception throughout. 
Romberg: Negative
  
Coordination: Finger-nose-finger normal, heel to shin normal,
RAMs normal. 
  
Gait: Narrow based, steady.  Tandem gait stable.

 
Pertinent Results:
___ 05:38AM BLOOD WBC-5.7 RBC-4.65 Hgb-14.5 Hct-41.2 MCV-89 
MCH-31.1 MCHC-35.2* RDW-12.8 Plt ___
___ 07:05AM BLOOD Neuts-56.8 ___ Monos-6.7 Eos-3.0 
Baso-0.5
___ 09:50PM BLOOD ___ PTT-42.4* ___
___ 11:29PM BLOOD ACA IgG-6.6 ACA IgM-16.5*
___ 11:29PM BLOOD AT-104 ProtCFn-95 ProtSFn-95
___ 11:29PM BLOOD Lupus-NEG
___ 07:05AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-140 
K-4.2 Cl-105 HCO3-25 AnGap-14
___ 07:05AM BLOOD ALT-20 AST-18 CK(CPK)-70 AlkPhos-47 
TotBili-0.4
___ 07:05AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:05AM BLOOD Calcium-8.8 Phos-2.4* Mg-1.9 Cholest-116
___ 07:05AM BLOOD %HbA1c-5.5 eAG-111
___ 07:05AM BLOOD Triglyc-63 HDL-38 CHOL/HD-3.1 LDLcalc-65
___ 11:29PM BLOOD Homocys-9.4
___ 07:05AM BLOOD TSH-2.2
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
FACTOR V LEIDEN (R506Q) MUTATION NOT DETECTED
THE G20210A MUTATION NOT DETECTED
B2 GLYCOPROTEIN I (IGG)AB     <9                  <=20 SGU
B2 GLYCOPROTEIN I (IGM)AB     <9                  <=20 SMU
B2 GLYCOPROTEIN I (IGA)AB     <9                  <=20 ___
___ 03:33PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 03:33PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 03:33PM URINE Color-Yellow Appear-Clear Sp ___

ECGStudy Date of ___  12:50:10 ___
Sinus rhythm. Normal tracing. No previous tracing available for 
comparison.
___
___
 
MRI
BRAIN MRI:
There is restricted diffusion seen in the posterior portion of 
the left
sylvian fissure. The small area of low signal intensity on 
susceptibility
images in this region could be secondary to a small thrombus in 
a MCA branch.
There is no midline shift or hydrocephalus. A small focus of 
hyperintensity
in the left frontal subcortical white matter on diffusion images 
could be due
to an additional area of infarct.
IMPRESSION: Acute infarct along the posterior portion of the 
left sylvian
fissure and along the insular cortex. A tiny additional area of
hyperintensity on diffusion in the left frontal subcortical 
white matter could
also be due to an area of infarct. Small area of low signal on 
susceptibility
images in the posterior left sylvian fissure could be due to a 
thrombus in a
MCA branch.
MRA HEAD:
Head MRA demonstrates normal flow signal in carotid and 
vertebral arteries
without stenosis or occlusion.
IMPRESSION: Normal MRA of the neck.
MRA HEAD:
Head MRA demonstrates slight change in the caliber of posterior 
division of
the left middle cerebral artery in the posterior portion of the 
left sylvian
fissure, which could be due to a small thrombus in the region. 
Otherwise, the
arteries of anterior and posterior circulation are maintained 
without stenosis
or occlusion.
IMPRESSION: Possible small thrombus within the posterior 
division of the left
middle cerebral artery in the sylvian fissure.
 
Echo:
Conclusions
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler but a patent 
foramen ovale is suggested with premature appearance of contrast 
in the left heart with maneuvers. The right atrial pressure is 
indeterminate. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). The 
estimated cardiac index is normal (>=2.5L/min/m2). Transmitral 
and tissue Doppler imaging suggests normal diastolic function, 
and a normal left ventricular filling pressure (PCWP<12mmHg). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 
IMPRESSION: Patent foramen ovale.
 
Bilateral Lower Extremity Ultrasound, Venous
FINDINGS: Grayscale, color and Doppler images were obtained of 
bilateral
common femoral, superficial femoral, popliteal and tibial veins. 
There is
normal flow, compression and augmentation seen in all the 
vessels.
IMPRESSION: No evidence of deep vein thrombosis in either leg.
 
Pelvic MRV
No venous thrombosis affecting the IVC or pelvic vasculature. 
Overall normal
pelvic examination.
 
Brief Hospital Course:
Mr. ___ was admitted with speech difficulties that quickly 
resolved. Headache was left sided, temporal and pounding. 
Headache continued with gradual abatement during the admission. 
There was one episode of transient right visual field loss when 
the patient stood up on the night of admission, but this 
resolved over several minutes. This occurred after exertion in 
the presence of a patent foramen ovale. We expect that this was 
a thromboembolic event. Mr. ___ was thus anticoagulated with 
intravenous heparin and coumadin was started. When lower 
extremity venous ultrasound and pelvic MRV proved negative, Mr 
___ was discharged on aspirin and coumadin was stopped. 
Hypercoagulable workup was unrevealing except for a very small 
elevation in anticardiolipin antibody. He will follow-up in 
Stroke Neurology clinic. 
 
Medications on Admission:
Tylenol, Excedrin PRN
 
Discharge Medications:
1. In order to prevent constipation while taking oxycodone, 
please consider taking Senna or Colace (over the counter bowel 
medications)
2. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.
Disp:*90 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for headache for 7 days: Only for pain not 
relieved by tylenol. Do drive or operate machinery if this makes 
you drowsy.
Disp:*14 Tablet(s)* Refills:*0*
4. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO every eight (8) 
hours as needed for headache.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Stroke
Patent Foramen Ovale
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You came to the hospital with language difficulties. You were 
found to have a small stroke. In addition, we found that you 
have a hole in your heart (patent foramen ovale) that likely 
transmitted a clot from your venous circulation. At the present 
time, there is no evidence of clot. As such, it is safe for you 
to go home on aspirin. 
 
Followup Instructions:
___